US04134983
To 4-(2,3-epoxypropoxy)benzaldehyde (8.9 gms., 0.05 m) is added n-butylamine (30 ml.) and the resulting solution is refluxed 17 hours. The excess n-butylamine is removed under reduced pressure (20 mm). The oil is dissolved in 6N hydrochloric acid (30 ml.) and the solution is heated on a steam bath for 40 minutes. The hot acidic solution is poured into a hot saturated aqueous sodium carbonate solution with nitrogen bubbling through it. The basic solution is extracted with chloroform. The chloroform is dried over sodium sulfate and concentrated to yield 4-(3-n-butylamino-2-hydroxypropoxy) benzaldehyde, as an oil.

reactant | 4-(2,3-epoxypropoxy)benzaldehyde | 8.9 gms | O1C(COC2=CC=C(C=O)C=C2)C1 | C10H10O3
reactant | n-butylamine | 30 ml | C(CCC)N | C4H11N
product | 4-(3-n-butylamino-2-hydroxypropoxy) benzaldehyde | C(CCC)NCC(COC1=CC=C(C=O)C=C1)O | C14H21NO3
